US07763629B2
Method K: (R)-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-amine (I-27)
A solution of (R)-7-chloro-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridine (500 mg, 1.64 mmol) in ammonium hydroxide (10 ml) was heated under microwave irradiation at 140° C. for 30 minutes. The solvent was removed under reduced pressure and cold water (5 mL) was added. The resulting light brown solid was filtered under vacuum and washed with cold water to give the title compound (170 mg, 36% yield).

reactant | (R)-7-chloro-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridine | 1.64 mmol, 500 mg | ClC1=NC=2N([C@@H](C=3N(C2C=N1)C=NN3)CC)C3CCCC3 | C14H17ClN6
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
product | (R)-5-cyclopentyl-4-ethyl-4,5-dihydro-[1,2,4]triazolo[4,3-f]pteridin-7-amine | 170 mg, 36% yield | C1(CCCC1)N1[C@@H](C=2N(C=3C=NC(=NC13)N)C=NN2)CC | C14H19N7
